US06703517B2
35.6 g of L-alanine was dissolved in 187.7 g of water, 42.3 g of tert-butanol (content of organic solvent: 18.4 wt %) and 6.8 g of sodium hydroxide to prepare an aqueous solution at pH 10. Then, this aqueous solution was added with 98.7 g of myristoyl chloride over about 1 hour, while a pH was adjusted to 10 by using 27% NaOH. During this operation, the reaction temperature was maintained at 25° C. After the addition of the acid chloride, the reaction mixture was stirred at the same temperature for about 1 hour. About 26% of N-myristoyl-L-alanine was contained in 461 g of the reaction mixture obtained, and the acylation purity was 97.6%. Further, the resulting reaction mixture was adjusted to pH 1.7 with addition of 29.4 g of 75% sulfuric acid and heated to 60° C. After stirring for 15 minutes, the reaction mixture was left standing, and the reaction mixture separated into an organic layer (176 g) and an aqueous layer (313 g) within several minutes. The resulting organic layer was further added with 250 g of 10 wt % aqueous tert-butanol, stirred and left standing for separation in the same manner. The resulting organic layer was neutralized to pH 7.0 with 90% aqueous triethanolamine to obtain an about 30% solution of N-myristoyl-L-alanine triethanolamine salt (containing tert-butanol), and then the tert-butanol was evaporated by vacuum concentration in the same manner as in Example 1 (400 g of water was added). The concentration of the salt was adjusted to 30% to obtain 585 g of N-myristoyl-L-alanine triethanolamine salt solution. This aqueous solution had a Cl content of less than 0.05%.

reactant | L-alanine | 35.6 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium hydroxide | 6.8 g | [OH-].[Na+]
reactant | myristoyl chloride | 98.7 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | N-myristoyl-L-alanine | C(CCCCCCCCCCCCC)(=O)N[C@@H](C)C(=O)O | C17H33NO3
reactant | sulfuric acid | 29.4 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 187.7 g | O | H2O
solvent | tert-butanol | 42.3 g | C(C)(C)(C)O | C4H10O
product | N-myristoyl-L-alanine triethanolamine salt | N(CCO)(CCO)CCO.C(CCCCCCCCCCCCC)(=O)N[C@@H](C)C(=O)O | InChI=1S/C17H33NO3.C6H15NO3/c1-3-4-5-6-7-8-9-10-11-12-13-14-16(19)18-15(2)17(20)21;8-4-1-7(2-5-9)3-6-10/h15H,3-14H2,1-2H3,(H,18,19)(H,20,21);8-10H,1-6H2/t15-;/m0./s1
